US05516788
Cis-4b,5,9b,10-tetrahydro-8-methoxy-6,7,9-trimethylindeno[1,2-b]indole.
To a solution of 0.65 g (0.00234 mol) of 5,10-dihydro-8-methoxy-6,7,9-trimethylindeno[1,2-b]indole and 0.95 g (0.00957 mol) of morpholino borane in 4 ml of dioxane was added dropwise 1 ml of concentrated hydrochloric acid. The mixture was refluxed for 30 minutes, cooled to room temperature whereupon 3 ml of 6N hydrochloric acid was added. The mixture was then refluxed for another 30 minutes. After cooling to room temperature, the crude mixture was partitioned between ether and aqueous sodium hydroxide. The organic phase was separated and washed with aqueous sodium hydroxide and with water. Drying (MgSO4) and evaporation gave the crude product which was recrystallized from ethyl acetate/light petroleum. Yield 0.46 g (70%). 1H NMR (CDCl3): 2.0 (3H,s), 2.14 (3H,s), 2.28 (3H,s), 3.17 (1H,dd), 3.55 (1H,dd), 3.64 (1H,s), 4.28 (1H,ddd), 5.38 (1H,d), 7.20-7.27 (3H,m), 7.39 (1H,d).

reactant | 5,10-dihydro-8-methoxy-6,7,9-trimethylindeno[1,2-b]indole | 0.00234 mol, 0.65 g | COC1=C(C=2C3=C(NC2C(=C1C)C)C1=CC=CC=C1C3)C | C19H19NO
reactant | morpholino borane | 0.00957 mol, 0.95 g | O1CCN(CC1)B | C4H10BNO
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | hydrochloric acid | 6N, 3 ml | Cl | ClH
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | Cis-4b,5,9b,10-tetrahydro-8-methoxy-6,7,9-trimethylindeno[1,2-b]indole | COC1=C(C=2[C@@H]3[C@H](NC2C(=C1C)C)C1=CC=CC=C1C3)C | C19H21NO
